US07297700B2
A solution of β-aminocrotononitrile (12 g, 147 mmol) and NEt3 (37 mL, 266 mmol) in CH2Cl2 (150 mL) was cooled with an ice bath to 0°. TiCl4 (7.9 mL, 72 mmol) in CH2Cl2 (100 mL) was added slowly with stirring followed by N-benzyl-4-piperidone (21.4 mL, 120 mmol) in one portion. The mixture was stirred for 24 h at ambient temperature and the volatiles were removed under reduced pressure. Ethly ether (400 mL) was added, and the resulting mixture was stirred vigorously until the residue was ground to a fine powder. The powder was filtered off and washed with ethyl ether (400 mL) and evaporation of the solvent afforded (E)-3-amino-2-(1-benzyl-1,2,3,6-tetrahydro-pyridin-4-yl)-but-2-enenitrile as an oil (20 g, 70%), which was used without further purification.

reactant | β-aminocrotononitrile | 147 mmol, 12 g | N\C(=C/C#N)\C | C4H6N2
reactant | NEt3 | 266 mmol, 37 mL | CCN(CC)CC | C6H15N
reactant | N-benzyl-4-piperidone | 120 mmol, 21.4 mL | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 72 mmol, 7.9 mL | Cl[Ti](Cl)(Cl)Cl
product | (E)-3-amino-2-(1-benzyl-1,2,3,6-tetrahydro-pyridin-4-yl)-but-2-enenitrile | 20 g, 70% | N/C(=C(/C#N)\C=1CCN(CC1)CC1=CC=CC=C1)/C | C16H19N3
